Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Myelogram
CT head
Chest X-ray
 
History of Present Illness:
___ year old female with history of concussion s/p myelogram and 
recent blood patch presents with extreme headache, unable to be 
controlled by APAP after procedure. She states she's unable to 
go home with  the pain.  She received a blood patch on ___, 
with worsening bilateral hand tingling. Symptoms are worse with 
standing. There are no changes in vision.  She reports 
difficulties walking over the past two months.  She feels unable 
to go home as can't walk for more than a short distance, feels 
unsteady on her feet.  She is followed by cognitive neurology 
for her symptoms.

In the ED, initial vitals were 98 60 82/64 18 100% RA.  Labs 
showed WBC 14K.  Labs were otherwise unremarkable.  She received 
morphine sulfate 4 mg x 1, 2 tabs of Fioricet, diphenhydramine 
25 mg  IV x 1, metoclopramide 10 mg IV x 1, and 1 liter NS.  CXR 
was clear.  CT was limited by recent myelogram.

Currently, her headache is ___ in severity.  She is inquiring 
about receiving another blood patch.  There is no change in 
vision, no weakness or numbness of the face or extremities.
 
 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
- concussion ___ years ago in a boating accident, with LOC for
___ seconds. She doesn't remember how much amnesia she had, 
but
thinks she had some.  She felt "out of it" and had headaches 
etc.
- she has migraines, and gets one a week, which she uses Advil 
or
Tylenol for
- anxiety and depression that were "really bad" in college,
treated with running and Zoloft.  She had a psychiatrist but no
therapist for many years.
 
Social History:
___
Family History:
Maternal grandmother has migraines.  Her mother, sister and 
father all have anxiety and depression.
 
Physical Exam:
Vitals: T: 98.0 BP: 124/81 P: 102 R: 18 O2: 98% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  No meningismus
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
BACK: no pain to palpation of spinous processes
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in all major muscle groups, sensation to light touch intact, 
non-focal.  Reflexes normal.
PSYCH: Appropriate and calm.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 05:33PM BLOOD WBC-14.2* RBC-4.70 Hgb-13.8 Hct-41.4 
MCV-88 MCH-29.4 MCHC-33.3 RDW-12.5 RDWSD-39.8 Plt ___
___ 05:33PM BLOOD Neuts-85.0* Lymphs-10.3* Monos-3.6* 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-___*# AbsLymp-1.46 
AbsMono-0.51 AbsEos-0.03* AbsBaso-0.07
___ 05:33PM BLOOD Glucose-89 UreaN-10 Creat-0.7 Na-137 
K-3.7 Cl-103 HCO___ AnGap-15
___ 08:45AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.8
___ 05:43PM BLOOD Lactate-1.8

CT head prelim read:
1. Severely limited exam given iodinated contrast material 
throughout the extra-axial CSF spaces from myelogram earlier 
today.
2. No evidence of hydrocephalus or midline shift.

CXR prelim read:
Normal chest.

CT myelogram ___:
Multiple spot fluoroscopic images demonstrate contrast within 
the subarachnoid space in the cervical, thoracic, and lumbar 
spine.  No extraluminal contrast is identified. 

MRI Brain ___: Normal brain MRI. No imaging evidence for 
intracranial hypotension.

MRI c/t spine ___:
1. No evidence of intra or paraspinal fluid collection to 
indicate a direct evidence of CSF leak the cervical, thoracic or 
lumbar spines. 
2. The cerebellar tonsils and posterior fossa structures are 
normal in 
position, an indirect findings suggesting that a significant CSF 
leak is not present . 
3. Mild degenerative changes in the cervical and lumbar region 
without spinal stenosis or high-grade foraminal narrowing. 
4. No abnormal enhancement seen. 
 
 
Brief Hospital Course:
___ year old female with history of concussion s/p myelogram and 
recent blood patch presents with extreme headache which had 
resolved on discharge on ___. She reported feeling better, 
however continued to feel better lying down. She stated when she 
stands, she continues to have the same sensation in her ears 
that she has had for the past few months. Discussed to hydrate 
well over the weekend and take Tylenol as needed for headache. 
Her gait is stable on discharge and she is able to stand with no 
tremors, instability noted. She will have her blood patch on 
___ morning, instructions were given to her on discharge. 

# Headache: following myelogram.  She reports it's mostly on the 
left side of her head, worse with standing.  No neurologic 
abnormalities noted.  Myelogram showed no extraluminal leak.  
Neurology saw the patient and recommended repeat blood patch, 
scheduled for ___ morning, she was discharge on ___ 
afternoon, ___.  Acetaminophen was given for pain.  She will 
follow up with Neurology following discharge.

# Leukocytosis: present on admission, but now resolved.  ___ 
have been reactive.  No further need at this time to investigate 
infectious causes, as there are no concerning symptoms to 
suggest infection.
 
# Anxiety/depression: will continue home sertraline 
 
# Full code

TRANSITIONS OF CARE
-------------------
# Follow up with neurology on ___ for blood patch.

# Follow-up with PCP on discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your visit to ___.  
You were admitted after suffering a headache after your 
myelogram.  You were seen by Neurology and it was agreed upon 
that you would have a blood patch placed on ___. Please 
arrive for the procedure in the morning on ___, at 7:30 a.m. 
Please drink fluids throughout the weekend. You can take Tylenol 
___ mg every 6 hours as needed for your headache over the 
weekend.

It is important that you continue to take your medications as 
prescribed and follow up with appointments listed below.
 
Followup Instructions:
___